US08669229B2
4-{7-Chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonyl}butyric acid (0.30 g, 0.53 mmol) was dissolved in acetone (2 ml). A sodium hydrogen carbonate (45 mg, 0.53 mmol) aqueous solution (2 ml) was added thereto and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated, and the residue was washed with ethyl acetate and then air-dried to obtain 0.14 g (45%) of sodium 4-{7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonyl}butyrate as amorphous.

reactant | 4-{7-Chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonyl}butyric acid | 0.53 mmol, 0.30 g | ClC1=CC2=C(N(CCCC2OC(=O)CCCC(=O)O)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | C31H31ClN2O6
reactant | sodium hydrogen carbonate | 0.53 mmol, 45 mg | C(O)([O-])=O.[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | sodium 4-{7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonyl}butyrate | 0.14 g, 45% | ClC1=CC2=C(N(CCCC2OC(=O)CCCC(=O)[O-])C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1.[Na+] | InChI=1S/C31H31ClN2O6.Na/c1-19-7-3-4-8-23(19)30(38)33-22-13-14-24(20(2)17-22)31(39)34-16-6-9-27(25-18-21(32)12-15-26(25)34)40-29(37)11-5-10-28(35)36;/h3-4,7-8,12-15,17-18,27H,5-6,9-11,16H2,1-2H3,(H,33,38)(H,35,36);/q;+1/p-1
